2165-10-26 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-10-25**] 02:00 PM, d/c/d
   A-fib w rapid ventricular response at 6am, asymptomatic, treated with
   2.5 lopressor, HR down to 100s.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2165-10-25**] 10:00 AM
   Vancomycin - [**2165-10-25**] 06:00 PM
   Metronidazole - [**2165-10-25**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-26**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 88 (85 - 97) bpm
   BP: 103/61(69) {79/45(56) - 123/104(108)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 6 (0 - 10)mmHg
   Total In:
                                                                  3,376 mL
                                                                    560 mL
   PO:
   TF:
   IVF:
                                                                  3,212 mL
                                                                    560 mL
   Blood products:
                                                                     23 mL
   Total out:
                                                                  1,435 mL
                                                                    135 mL
   Urine:
                                                                    835 mL
                                                                    135 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,941 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: Thin elderly man, cachetic.  Scoliosis. Pt feeling well, denies
   any CP, SOB, ABD pain.
   HEENT: Poor dentition. Mucus membranes mildly dry.
   Neck: Supple, no LAD.
   CV: RRR, nl S1 S2, no m/r/g.  External jugular distended, JVP not
   appreciated.
   Resp: Small crackles at right base.  Otherwise CTAB
   Abd: Soft, NT, ND, BS+
   Extrem: DP 2+, radial 2+,
   Skin: Sacral decub.
   Neuro: PERRL, Moving all 4 extremitites.  Resting tremor.  Sensation
   intact.
   Labs / Radiology
   271 K/uL
   10.9 g/dL
   146 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.0 mEq/L
   41 mg/dL
   116 mEq/L
   140 mEq/L
   34.2 %
   17.2 K/uL
        [image002.jpg]
                             [**2165-10-23**]  01:41 PM
                             [**2165-10-23**]  09:25 PM
                             [**2165-10-24**]  02:15 AM
                             [**2165-10-24**]  10:25 AM
                             [**2165-10-24**]  03:02 PM
                             [**2165-10-25**]  02:20 AM
   WBC
   19.7
   19.1
   17.6
   17.2
   Hct
   36.7
   35
   34.2
   31
   30.9
   34.2
   Plt
   363
   318
   277
   271
   Cr
   2.7
   2.2
   1.5
   1.2
   TropT
   <0.01
   <0.01
   TCO2
   20
   Glucose
   173
   182
   142
   146
   Other labs: PT / PTT / INR:15.6/28.8/1.4, CK / CKMB /
   Troponin-T:35/3/<0.01, ALT / AST:[**3-17**], Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:17/8, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:6.1
   %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:205 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Pt is a 76 y o man presenting with hypotension and septic shock.
   # Shock, likely septic:  Elevated WBC, tachycardia, hypotension
   requiring pressors, and evidence of end organ damage meet criteria for
   severe sepsis.  On arrival to MICU was volume replete based on PA
   diastolic pressior of in low 20s and CVP of 14.  However CVP trended
   down overnight.  Source is likely colitis, but may include lungs (given
   recent cough, and retrocardiac lesion on CT), abdomen (C. diff
   positive, c/o abdominal pain, diffuse abdominal distension on CT).
   Cardiac and hypovolemic shock not c/w clinical picture.  Blood loss
   from procedures may have contributed somewhat.  Neuro/endocrine
   unlikely, cortisol appropriately high.
   - Initial broad spectrum ABX targeting abdomen: IV Vanc/Zosyn/Flagyl.
   PO Vanc
   - Vanc trough sufficient with morning labs.  Repeat dose today and
   recheck tomorrow.
   - PO Vanc limited by NPO.  Will advance today.  Takes meds crushed in
   applesauce at home.
   - Atypicals unlikely given legionella negative and recent Levoquin use.
   - Probiotics may be appropriate when no longer on Abx
   - Further C. diff management per GI given several week history of
   poorly treated C. diff
   - NG tube placement with sedation with GI guidance, given recent
   bleeding.
   - Maintain CV O2 sat > 80 with transfusion
   - CVP monitoring with central line, CVP goal initially 15 (increased
   given possible diastolic dysfunction), 500 cc NS bolus as needed.
   - Had levophed drip, titrated to MAP > 65, would use Vasopressin if
   second [**Doctor Last Name **] needed
   - Final CT read as above.
   - Following sputum, blood, urine cultures
   - Contact PCP for culture data, h/o VRE, MRSA
   - Pt improving clinically with IVF, still appearing clinically dry and
   continues to have good/baseline respiratory status.
   - Continue 500cc NS fluid bolus, titrate to CVP 6-7, MAP > 65-70.
   - GI recs: surgery consult ? toxic megacolon, continue
   Vanc/Flagyl/Zosyn, No intraluminal vanco, no IVIG, hold laxatives, hold
   narcotics.
   # Bleeding:  Likely secondary to anticoagulation including plavix for
   MI workup.
   - Pressure to hold IJ site
   - Obtain blood consent
   - TID Hct, transfuse for HCT < 29 (5 point drop)
   - Hold anticoagulants except SQH
   - Vitamin K given elevated INR and antibiotic use.
   - Bleeding from right IJ site resolved
   - Transfused 1unit PRBCs with HCT rise from 30.9 to 34.2
   # Myocardial Ischemia: Elevated ST segments in setting of clean
   coronaries per cath report c/w demand ischemia.  Such diffuse elevation
   would also be consistent with pericarditis.  Echocardiogram showed no
   evidence of restrictive heart disease.  Troponins are reassuring.
   - Continue Statin at 40 mg, hold ASA 81 mg given bleeding
   # COPD: COPD is rare in patients without a smoking history.  Would
   consider bronchiectasis, restrictive lung disease.
   - F/U CT throax
   - Contact PCP for [**Name9 (PRE) 414**].
   - PCP reports no hx of COPD
   # Renal failure:  Improved today from Cr 1.5 to 1.2.  Per PCP baseline
   Cr is 1.1. Likely [**3-9**] to dehydration/prerenal.
   - Renal dose meds, avoid renal toxic meds while Cr elevated
   - Continue to follow Cr
   - Consider renal u/s and sediment if not clearing
   - Continue IV hydration
   # Parkinsons
   - Continue Senemet 25-100 TID  (needs diet)
   # Sacral decub
   -          Wound care c/s
   # Back pain - likely chronic spinal stenosis.
   - pt without complaints while here
   - written for Vicodin 5/500 Q6HRS PRN Back Pain, but should avoid
   narcotics unless necessary.
   # Hypertension: Hold antihypertensives in setting of septic shock.  Add
   back as needed.  Norvasc 5 mg QD, Benzaepril 10 mg QD.
   # FEN/GI: replete lytes prn.  Colase/Senna/Bisacodyl PRN, hold for now
   with colitis and diarrhea.
   - Speech and swallow c/s, careful diet as advancement (thickened
   liquids and observation).
   - NPO except meds for now
   # Endo: QID finger sticks, Insulin sliding scale
   # PPx: subq heparin, home dose of Protonix 40 mg QD for stress ulcer
   # Access: PIV x 2, L art line, R-IJ.
   - d/c art line today
   # Code: DNR/DNI but could reverse if intubation likely to be temporary
   # Communication: [**Name (NI) 209**] [**Name (NI) 1800**] (Nephew): [**Telephone/Fax (1) 1801**]
   # Dispo: ICU pending resolution of septic shock
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-10-23**] 01:30 PM
   Multi Lumen - [**2165-10-23**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2165-10-27 05:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Surgery recommended no tube feeds for now "while on pressors", to give
   time for bowel to rest.  Recommended TPN instead.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2165-10-25**] 10:00 AM
   Metronidazole - [**2165-10-26**] 10:00 PM
   Vancomycin - [**2165-10-26**] 11:50 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2165-10-26**] 05:40 AM
   Diltiazem - [**2165-10-26**] 08:00 AM
   Dextrose 50% - [**2165-10-26**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2165-10-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-27**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 89 (84 - 139) bpm
   BP: 99/55(61) {70/40(47) - 119/75(99)} mmHg
   RR: 26 (9 - 44) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 5 (2 - 10)mmHg
   Total In:
                                                                  4,055 mL
                                                                  1,155 mL
   PO:
   TF:
   IVF:
                                                                  3,805 mL
                                                                  1,115 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                     75 mL
   Urine:
                                                                    495 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,560 mL
                                                                  1,080 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: Thin elderly man, cachetic.  Scoliosis. Pt feeling well, denies
   any CP, SOB, ABD pain.
   HEENT: Poor dentition. Mucus membranes mildly dry.
   Neck: Supple, no LAD.
   CV: RRR, nl S1 S2, no m/r/g.  External jugular distended, JVP not
   appreciated.
   Resp: Small crackles at right base.  Otherwise CTAB
   Abd: Soft, NT, ND, BS+
   Extrem: DP 2+, radial 2+,
   Skin: Sacral decub.
   Neuro: PERRL, Moving all 4 extremitites.  Resting tremor.  Sensation
   intact.
   Labs / Radiology
   389 K/uL
   12.2 g/dL
   77 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.5 mEq/L
   36 mg/dL
   116 mEq/L
   145 mEq/L
   39.2 %
   22.4 K/uL
        [image002.jpg]
                             [**2165-10-23**]  01:41 PM
                             [**2165-10-23**]  09:25 PM
                             [**2165-10-24**]  02:15 AM
                             [**2165-10-24**]  10:25 AM
                             [**2165-10-24**]  03:02 PM
                             [**2165-10-25**]  02:20 AM
                             [**2165-10-26**]  04:46 AM
                             [**2165-10-27**]  03:38 AM
   WBC
   19.7
   19.1
   17.6
   17.2
   14.9
   22.4
   Hct
   36.7
   35
   34.2
   31
   30.9
   34.2
   36.6
   39.2
   Plt
   363
   318
   277
   271
   283
   389
   Cr
   2.7
   2.2
   1.5
   1.2
   0.9
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   173
   182
   142
   146
   77
   Other labs: PT / PTT / INR:15.6/28.8/1.4, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**3-17**], Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:17/8, Differential-Neuts:84.8 %, Lymph:8.8 %, Mono:6.0
   %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:205 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Pt is a 76 y o man presenting with hypotension and septic shock.
   # Septic shock related to C. diff colitis.  Pressured improved and
   stable off levophed.  Symptoms are resolving.
   - PO Vanc/IV flagyl
   - Appreciate GI recs
   - Probiotics may be appropriate when no longer on Abx
   - IVF with CVP goal > 8
   - CVP goal > 8
   - Follow cultures
   - NG tube for decompression
   - KUB today
   # A Fib with RVR.  CEs flat.
   - Rate control with diltiazam and digitalis
   - consider amiodorone if needed
   # Bleeding:  Hct stable to trending up.  Got Vit K.
   - Hold anticoagulants except SQH.
   - Bleeding from right IJ site resolved
   - Transfusion if needed
   # Myocardial Ischemia: Elevated ST segments in setting of clean
   coronaries per cath report c/w demand ischemia.  Such diffuse elevation
   would also be consistent with pericarditis.  Echocardiogram showed no
   evidence of restrictive heart disease.  Troponins are reassuring.
   - Continue Statin at 40 mg, hold ASA 81 mg given bleeding
   # Renal failure:  Cr below baseline of 1.1 today.
   - Continue to follow Cr
   # Parkinsons
   - Continue Senemet 25-100 TID  (needs diet)
   # Sacral decub
   -          Wound care c/s
   # Back pain - likely chronic spinal stenosis.
   - pt without complaints while here
   - written for Vicodin 5/500 Q6HRS PRN Back Pain, but should avoid
   narcotics unless necessary.
   # Hypertension: Hold antihypertensives in setting of septic shock.  Add
   back as needed.  Norvasc 5 mg QD, Benzaepril 10 mg QD.
   # FEN/GI:
   - replete lytes prn.  Colase/Senna/Bisacodyl PRN, hold for now with
   colitis and diarrhea.
   - Holding on Tube Feeds to rest bowel per [**Doctor First Name 213**] recs.
   - Consider TPN
   - NPO except meds for now
   # Endo: BS was 50 today.  Got
 amp D50.  QID finger sticks, Insulin
   sliding scale
   # PPx: subq heparin, home dose of Protonix 40 mg QD for stress ulcer
   # Access: PIV x 2, L art line, R-IJ.
   - d/c art line today
   # Code: DNR/DNI but could reverse if intubation likely to be temporary
   # Communication: [**Name (NI) 209**] [**Name (NI) 1800**] (Nephew): [**Telephone/Fax (1) 1801**]
   # Dispo: ICU pending resolution of septic shock
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-10-23**] 01:30 PM
   Multi Lumen - [**2165-10-23**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2165-10-28 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated sips
   Remained in sinus rhythm
   Minimal stool output
   New leukocytosis of unclear etiology
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2165-10-25**] 10:00 AM
   Vancomycin - [**2165-10-27**] 12:00 PM
   Metronidazole - [**2165-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-28**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 94 (85 - 104) bpm
   BP: 100/59(69) {86/18(40) - 114/88(96)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (6 - 12)mmHg
   Total In:
                                                                  2,710 mL
                                                                    818 mL
   PO:
                                                                     10 mL
   TF:
                                                                    165 mL
                                                                    129 mL
   IVF:
                                                                  2,075 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                    517 mL
                                                                    130 mL
   Urine:
                                                                    317 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,193 mL
                                                                    688 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Gen: Thin elderly man, cachetic.  Scoliosis. NAD. A and O times 3.
   HEENT: Poor dentition. Mucus membranes dry but intact. PERRL, EOMI.
   Neck: Supple, no LAD.
   CV: RRR, nl S1 S2, no m/r/g.  right IJ.
   Resp: CTAB at apexes anteriorly,
   Abd: Soft, NT, ND, BS+
   Extrem: DP 1+, radial 2+, bil
   Skin: Sacral decub.not-visualized, per nursing small, grade II.
   Neuro: PERRL, Moving all 4 extremitites.  Resting tremor.  Sensation
   intact.
   Labs / Radiology
   398 K/uL
   11.3 g/dL
   132 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.6 mEq/L
   44 mg/dL
   120 mEq/L
   145 mEq/L
   35.0 %
   23.7 K/uL
        [image002.jpg]
                             [**2165-10-23**]  01:41 PM
                             [**2165-10-23**]  09:25 PM
                             [**2165-10-24**]  02:15 AM
                             [**2165-10-24**]  10:25 AM
                             [**2165-10-24**]  03:02 PM
                             [**2165-10-25**]  02:20 AM
                             [**2165-10-26**]  04:46 AM
                             [**2165-10-27**]  03:38 AM
                             [**2165-10-28**]  03:15 AM
   WBC
   19.7
   19.1
   17.6
   17.2
   14.9
   22.4
   23.7
   Hct
   36.7
   35
   34.2
   31
   30.9
   34.2
   36.6
   39.2
   35.0
   Plt
   363
   318
   277
   271
   283
   389
   398
   Cr
   2.7
   2.2
   1.5
   1.2
   0.9
   1.1
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   173
   182
   142
   146
   77
   131
   132
   Other labs: PT / PTT / INR:14.1/31.6/1.2, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**3-17**], Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:17/8, Differential-Neuts:88.7 %, Lymph:6.0 %, Mono:5.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:205 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Pt is a 76 y o man with several month history of refractory C.diff
   presented with septic [**Month/Year (2) 281**] [**3-9**] C.diff colitis now improving.
   # Leukocytosis: Unclear etiology. Clinically does not appear to be
   infected above and beyond his C.diff. Appears to be improving. No rash
   or fever to indicate drug reaction. Abd exam benign, diarrhea
   resolving, no other obvious source. Consider pericarditis, if
   hemodynamics worsen get stat ECHO.
   -  check diff for eos
   -  check UA/cx
   -  repeat  CBC in am for [**Last Name (LF) **], [**First Name3 (LF) **] be aberrant value
   - Follow CXRs
   # C.diff.  Pressured improved and stable off levophed.  Abdominal exam
   benign and very little diarrhea.
   - continue PO Vanc/IV flagyl for 14 days
   - follow GI recs
   - Follow blood cultures
   # A Fib with RVR.  CEs flat.  Likely secondary to fluid hydration for
   sepsi. Converted yesterday am with diltiazem drip. Diltiazem, d/c
   - monitor
   - No need to anticoagulate for single episode of a-fib in setting of
   treating septic [**Last Name (LF) 281**], [**First Name3 (LF) **] monitor, and consider anticoagulation if
   afib repeats.
   # Myocardial Ischemia: Elevated ST segments in setting of clean
   coronaries per cath report c/w demand ischemia.  Such diffuse elevation
   would also be consistent with pericarditis.  Echocardiogram showed no
   evidence of restrictive heart disease.  Troponins are reassuring.
   - Continue Statin at 40 mg, hold ASA 81 mg given bleeding
   - consider stat ECHO if hemodynamics change
   - recheck lactate
   # Parkinsons
   - Continue Senemet 25-100 TID  (needs diet)
   # Sacral decub
 Currently very mild per wound care note.
   -          viualized today
   -          monitor
   -          frequent turns
   # Back pain - chronic spinal stenosis.
   - Vicodin 5/500 Q6HRS PRN Back Pain (home med)
   # Hypertension: Held antihypertensives in setting of septic [**First Name3 (LF) 281**].
   Currently normotensive.
   - monitor for now, add back as needed.  Norvasc 5 mg QD, Benzaepril 10
   mg QD.
   # FEN/GI: Difficult situation of poor swallowing function and NG tube
   curled stomach w/ hiatal hernia.
   - replete lytes prn.  Colace/Senna/Bisacodyl PRN, hold for now with
   colitis and diarrhea.
   - Speech and swallow consult. Suggests consider PEG placement for long
   term nutrition, currently swallow is poor and pt should only have small
   amounts of thickened fluids.
   - IR for manipulation of NG tube into position below the diaphragm.
   - GI consult regarding hiatal hernia
   # Glycemic control: BS well controlled with SSI.
   # Lines: PIV times 2. R IJ
 maintain for now, c/s d/cing tonight or
   tomorrow dep on clinical condition.
   - IR for PICC placement
   # PPx: subq heparin. D/c
d protonix for increased risk of C. diff.
   # Communication: [**Name (NI) 209**] [**Name (NI) 1800**] (Nephew): [**Telephone/Fax (1) 1801**]
   # Code: DNR/DNI but could reverse if intubation likely to be temporary
   # Dispo: Likely to floor later today if remains stable after PICC/NG
   procedures.
   ICU Care
   Nutrition:
   Replete (Full) - [**2165-10-28**] 03:44 AM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-10-23**] 01:30 PM
   Multi Lumen - [**2165-10-23**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2165-11-04 10:50:00 Physician Attending Progress Note
Chief Complaint: sepsis due to c diff colitis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: 76 yr old with Parkinsons severe C diff sepsis
   24 Hour Events:
   Hemodynamics remain stable
   Repeat HCT stable
   Dophoff inplace for nutrition
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-11-4**] 01:00 AM
   Metronidazole - [**2165-11-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-11-4**] 01:00 AM
   Other medications:
   Amiodarone, Digoxin, Atorvastatin, SSRI
   Carbidopa,Levodopa, Trazadone, Zofran, Tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-4**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 87 (87 - 101) bpm
   BP: 100/53(64) {84/50(59) - 116/66(107)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,212 mL
                                                                  1,251 mL
   PO:
             TF:
                                                                  1,562 mL
                                                                    691 mL
   IVF:
                                                                    390 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                  1,630 mL
   Urine:
                                                                  3,445 mL
                                                                  1,330 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -533 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Gen: cachetic, alert, NAD
   CV: RR
   Chest: fair air movement
   Abd: distended soft NT +BS no rebound or guarding
   Ext: 3+ pedal edema, warm
   Labs / Radiology
   10.7 g/dL
   413 K/uL
   167 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   143 mEq/L
   31.9 %
   14.6 K/uL
        [image002.jpg]
                             [**2165-10-31**]  07:00 AM
                             [**2165-10-31**]  03:12 PM
                             [**2165-11-1**]  03:40 AM
                             [**2165-11-1**]  06:31 PM
                             [**2165-11-2**]  02:37 AM
                             [**2165-11-2**]  05:35 PM
                             [**2165-11-3**]  01:48 AM
                             [**2165-11-3**]  05:46 PM
                             [**2165-11-3**]  05:53 PM
                             [**2165-11-4**]  04:08 AM
   WBC
   19.9
   19.5
   16.6
   18.0
   15.6
   14.6
   Hct
   37.9
   33.3
   34.5
   33.6
   33.5
   32.0
   31.9
   Plt
   395
   380
   417
   392
   401
   413
   Cr
   1.1
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   Glucose
   122
   125
   150
   142
   156
   142
   154
   147
   167
   Other labs: PT / PTT / INR:15.0/27.1/1.3, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**3-17**], Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:205 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   76 yr old man with refractory C diff sepsis now hemodynamically
   improving but with profound weakness and nutritional deficiences
   1.       Hypotension- resolved with hydration, MAPS at 65
   2.       C diff on IV and po Flagyl
   3.       Afib with RVR: on Dig. With stable level. back in NSR
   4.       Parkinsons- continue home meds
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2165-11-4**] 04:43 AM 65 mL/hour
   Glycemic Control:  SSRI
   Lines:
   PICC Line - [**2165-10-29**] 09:30 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: tube feeds
   Communication:  pt and son
   [**Name (NI) 36**] status: DNR / DNI
   Disposition : ICU, screening for rehab
   Total time spent: 35

2165-11-05 11:08:00 Physician Attending Progress Note
Chief Complaint: c diff sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 76 yr old man with C diff sepsis
   24 Hour Events:
   significant stool output
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-11-4**] 01:00 AM
   Metronidazole - [**2165-11-5**] 08:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-11-4**] 12:00 PM
   Other medications:
   Lasix,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-5**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 96 (84 - 96) bpm
   BP: 123/75(81) {94/52(65) - 123/87(92)} mmHg
   RR: 23 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,632 mL
                                                                    971 mL
   PO:
             TF:
                                                                  1,562 mL
                                                                    721 mL
   IVF:
                                                                    300 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    835 mL
   Urine:
                                                                  2,675 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -343 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   Gen: cachetic, alert, NAD, sitting up in chair, shovel mask in place
   CV: RR
   Chest: fair air movement
   Abd: distended soft NT +BS no rebound or guarding
   Ext: 3+ pedal edema, warm
   Labs / Radiology
   10.6 g/dL
   425 K/uL
   148 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.6 mEq/L
   24 mg/dL
   102 mEq/L
   142 mEq/L
   32.4 %
   14.2 K/uL
        [image002.jpg]
                             [**2165-10-31**]  03:12 PM
                             [**2165-11-1**]  03:40 AM
                             [**2165-11-1**]  06:31 PM
                             [**2165-11-2**]  02:37 AM
                             [**2165-11-2**]  05:35 PM
                             [**2165-11-3**]  01:48 AM
                             [**2165-11-3**]  05:46 PM
                             [**2165-11-3**]  05:53 PM
                             [**2165-11-4**]  04:08 AM
                             [**2165-11-5**]  04:00 AM
   WBC
   19.5
   16.6
   18.0
   15.6
   14.6
   14.2
   Hct
   33.3
   34.5
   33.6
   33.5
   32.0
   31.9
   32.4
   Plt
   [**Telephone/Fax (2) 2220**]
   Cr
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.8
   Glucose
   125
   150
   142
   156
   142
   154
   147
   167
   148
   Other labs: PT / PTT / INR:15.0/27.1/1.3, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**4-20**], Alk Phos / T Bili:60/0.2,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:198 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   76 yr old man with refractory C diff sepsis now hemodynamically
   improving but with profound weakness and nutritional deficiences
   1.       Hypotension- resolved with hydration, MAPS at 65
   2.       C diff on IV Flagyl and po Vanco
   3.       Afib with RVR: was Digoxin and Amio loaded. Now in NSR. Will
   d/c Digoxin and convert to Amio 00 QD to then taper to 200 qd for
   maintainence
   4.       Parkinsons- continue home meds
   ICU Care
   Nutrition: Impact with Fiber (Full) - [**2165-11-5**] 05:08 AM 65 mL/hour
   Glycemic Control:
   Lines:  PICC Line - [**2165-10-29**] 09:30 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:
   Communication:  newphew
   Code status: DNR / DNI
   Disposition :call out
   Addendum:
   Called by his Insurance company to answer a series of questions about
   Acute level care. They told me he does not meet LTAC
 but they will
   have this revisted by another screener and get back to us. Let case
   management know this update.